US09210927B2
Preparation of 2-((5-Bromo-3-chloropyridin-2-yl)methyl)isoindoline-1,3-dione (CI62)
To a stirred solution of (5-bromo-3-chloropyridin-2-yl)methanamine hydrochloride (0.3 g, 1.4 mmol) in toluene (40 mL) was added TEA (0.41 g, 4.08 mmol) and phthalic anhydride (0.24 g, 1.63 mmol), and the reaction mixture was heated at reflux for 2 h. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with H2O and extracted with EtOAc. The combined EtOAc layer was washed with brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure. The residue was purified by column chromatography (20-30% EtOAc in hexane) to afford the title compound as a white solid (0.25 g, 65%): 1H NMR (400 MHz, CDCl3) δ 8.78 (s, 1H), 8.45 (s, 1H), 7.88 (m, 2H), 7.74 (m, 2H), 4.56 (m, 2H); ESIMS m/z 349 ([M−H]−); IR (thin film) 3307, 1665, 1114, 813 cm−1.

reactant | (5-bromo-3-chloropyridin-2-yl)methanamine hydrochloride | 1.4 mmol, 0.3 g | Cl.BrC=1C=C(C(=NC1)CN)Cl
reactant | phthalic anhydride | 1.63 mmol, 0.24 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 2-((5-Bromo-3-chloropyridin-2-yl)methyl)isoindoline-1,3-dione | 0.25 g, 65% | BrC=1C=C(C(=NC1)CN1C(C2=CC=CC=C2C1=O)=O)Cl | C14H8BrClN2O2
